US07135467B2
N-[(4-fluorophenyl)methyl]-1,6-dihydro-5-hydroxy-2-[4-(2-hydroxyethyl)-1-piperazinyl]-1-methyl-6-oxo-4-pyrimidinecarboxamide
5-Hydroxy-2-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (0.024 g, 0.074 mmol) was dissolved in DMF (1 mL) to which was added 4-fluoro-benzyl amine (0.047 mL, 0.37 mmol). The mixture was stirred at 70° C. for 2 hours. The resulting mixture was purified by chromatography (YMC Combiprep ODS-A, 30 mm×50 mm, MeOH/H2O/0.1% TFA) to yield the title compound as a white powder (0.0149 g, 50% yield). 1H NMR (500 MHz, MeOD) δ: 8.81 (1H, bs), 7.40 (2H, dd, J=8.5, 5.5 Hz), 7.08 (2H, t, J=8.8 Hz), 4.59 (2H, d, J=6.1 Hz), 3.94 (2H, t, J=5.2 Hz), 3.70 (4H, d, J=11.3 Hz), 3.58 (3H, s), 3.47–3.35 (6H, m). HRMS (M+H) calcd for C19H25FN4O5: 406.18907. found: 406.1895.

reactant | 5-Hydroxy-2-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.074 mmol, 0.024 g | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)N1CCN(CC1)CCO | C14H22N4O5
reactant | 4-fluoro-benzyl amine | 0.37 mmol, 0.047 mL | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-[(4-fluorophenyl)methyl]-1,6-dihydro-5-hydroxy-2-[4-(2-hydroxyethyl)-1-piperazinyl]-1-methyl-6-oxo-4-pyrimidinecarboxamide | 0.0149 g, 50% yield | FC1=CC=C(C=C1)CNC(=O)C=1N=C(N(C(C1O)=O)C)N1CCN(CC1)CCO | C19H24FN5O4
